US04021536
Magnesium glycinate was prepared by reacting 3 g. of basic magnesium carbonate (26.1% Mg) with 5 g. of glycine in 40 g. of H2O, while agitating at 75° C. for one half hour. To the cooled slurry was added 100 g. of 33-1/3% zirconyl hydroxychloride solution (4.4% Zr) with agitation. After 15 minutes of stirring, the solution cleared and had a pH of 3.4. The product was oven-dried at 50° C. under a vacuum of 35 cm. of Hg, and found to contain 2.06% Mg, 36.9% Zr, and 13.1% glycine.

reactant | magnesium carbonate | C([O-])([O-])=O.[Mg+2]
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | hydroxychloride | OCl | ClHO
solvent | H2O | O | H2O
product | Magnesium glycinate | NCC(=O)[O-].[Mg+2].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Mg/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
